US08871943B2
Methyl 4-(acetylamino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate was prepared in analogous fashion to isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate in Example 10 except that methyl 4-acetamido-6-bromo-5-fluoropicolinate was used in place of isopropyl 4-amino-6-bromo-5-fluoropicolinate: mp=189-191° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.5 (s, 1H), 9.04 (d, JF-H=5.6 Hz, 1H), 7.53 (dd, J=8.4, 1.6 Hz, 1H), 7.37 (dd, J=8.4, 7.0 Hz, 1H), 3.95 (s, 3H), 3.89 (s, 3H), 2.22 (s, 3H); 13C NMR (100.6 MHz, DMSO-d6) δ 170.3, 164.1, 154.4, 151.9, 149.4, 146.7, 144.1-143.8 (m), 140.5 (d, JF-C=15.3 Hz), 135.1 (d, JF-C=10.8 Hz), 128.9 (d, JF-C=3.4 Hz), 125.9 (dd, JF-C=35.0, 3.5 Hz), 122.9 (dd, JF-C=13.7, 3.5 Hz), 61.6, 52.6, 24.1; 19F {1H} NMR (376.5 MHz, DMSO-d6) δ −129.5 (d, JF-F=27.5 Hz), −142.8 (d, JF-F=27.5 Hz); IR: 3341, 2972, 2944, 1733, 1705, 1599, 1507, 1439, 1416, 1406, 1371, 1283, 1166, 1039, 974, 926, 890, 823, 678; MS Calcd. for C16H13ClF2N2O4: 370.1. Found: 370 (M+), 312.

reactant | isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate | NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC(C)C | C16H15ClF2N2O3
reactant | methyl 4-acetamido-6-bromo-5-fluoropicolinate | C(C)(=O)NC1=CC(=NC(=C1F)Br)C(=O)OC | C9H8BrFN2O3
product | Methyl 4-(acetylamino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate | C(C)(=O)NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC | C16H13ClF2N2O4
